US07026335B2
Preparation of 4-cyclohexyl-4-(2-methoxycarbonyl-vinyl)-piperidine-1-carboxylic acid tert-butyl ester (8):
To a solution of trimethyl phosphonoacetate (1.41 ml, 8.72 mmole), lithium chloride (477 mg, 11.3 mmole), and 1,8-diazabicyclo[4.3.0]non-7-ene (DBU) (1.55 ml, 11.3 mmole) in anhydrous acetonitrile (25 ml) is added 4-cyclohexyl-4-formyl-piperidine-1-carboxylic acid tert-butyl ester, 7, (2.58 mg, 8.72 mmole) under argon at room temperature. The mixture is stirred for one hour and the solvent then removed under reduced pressure. The crude product is purified over silica (methylene chloride:methanol=15:1, Rf=0.78) to afford 2.64 g (86% yield) of the desired compound.

reactant | trimethyl phosphonoacetate | 8.72 mmole, 1.41 ml | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | lithium chloride | 11.3 mmole, 477 mg | [Cl-].[Li+]
reactant | 1,8-diazabicyclo[4.3.0]non-7-ene | 11.3 mmole, 1.55 ml | N12CCCCC2C=NC1 | C7H12N2
reactant | 4-cyclohexyl-4-formyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C=O)C1CCCCC1 | C17H29NO3
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 4-cyclohexyl-4-(2-methoxycarbonyl-vinyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.64 g, 86% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(C=CC(=O)OC)C1CCCCC1 | C20H33NO4
